US06727264B1
N-(6-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}HEXYL)-2-PHENOXYNICOTINAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 2-phenoxynicotinoyl chloride: ESMS m/e: 543.3 (M+H)+.

reactant | N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C21H35N3O
reactant | 2-phenoxynicotinoyl chloride | O(C1=CC=CC=C1)C1=C(C(=O)Cl)C=CC=N1 | C12H8ClNO2
solvent | THF | C1CCOC1 | C4H8O
product | N-(6-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}HEXYL)-2-PHENOXYNICOTINAMIDE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCCCCNC(C1=C(N=CC=C1)OC1=CC=CC=C1)=O | C33H42N4O3
